* NGSPICE file created from gf180mcu_ocd_sc_rt12t3v3__fill_1.ext - technology: gf180mcuD

.subckt gf180mcu_ocd_sc_rt12t3v3__fill_1 VDD VSS
R0 VDD.n6 VDD.n4 317.757
R1 VDD.n0 VDD.n6 317.709
R2 VDD.n1 VDD.n4 6.51963
R3 VDD.n1 VDD.n3 2.416
R4 VDD.n2 VDD.n0 3.01425
R5 VDD.n7 VDD.n3 1.471
R6 VDD.n0 VDD.n3 1.49112
R7 VDD.n7 VDD.n6 3.1505
R8 VDD.n5 VDD.n2 2.68625
R9 VDD.n5 VDD.n4 1.50212
R10 VDD.n7 VDD.n5 1.45166
R11 VDD.n2 VDD.n1 1.37962
R12 VDD VDD.n0 0.0005
R13 VSS VSS.n0 0.0005
C0 VDD VSS 1.09092f
.ends

